US06126867
0.11 mol of n-heptyl bromide and 0.1 mol of NaHCO3 are added to 0.1 mol of m-aminophenol in 150 ml of methanol, and the mixture is refluxed for 5 h. After cooling, it is filtered and the solvent is removed in vacuo. The oil which remains is fractionated in vacuo, to give 3-(n-heptyl-amino)phenol.

reactant | n-heptyl bromide | 0.11 mol | C(CCCCCC)Br | C7H15Br
reactant | NaHCO3 | 0.1 mol | C(=O)(O)[O-].[Na+]
reactant | m-aminophenol | 0.1 mol | NC=1C=C(C=CC1)O | C6H7NO
solvent | methanol | 150 ml | CO | CH4O
product | 3-(n-heptyl-amino)phenol | Yield: 62% | C(CCCCCC)NC=1C=C(C=CC1)O | C13H21NO
